US04966828
Analogous to Preparation Example 1 B, the 2,4-dimethyl-3-ethyl-5-ethoxycarbonyl-thiazolium p-toluene-sulfonate is reacted with p-trichloromethylbenzoyl chloride to give 2-(p-trichloromethyl-benzoylmethylene)-3-ethyl-4-methyl-5-ethoxycarbonylthiazoline.

reactant | 2,4-dimethyl-3-ethyl-5-ethoxycarbonyl-thiazolium p-toluene-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.CC=1SC(=C([N+]1CC)C)C(=O)OCC
reactant | p-trichloromethylbenzoyl chloride | ClC(C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C8H4Cl4O
product | 2-(p-trichloromethyl-benzoylmethylene)-3-ethyl-4-methyl-5-ethoxycarbonylthiazoline | ClC(C1=CC=C(C(=O)C=C2SC(=C(N2CC)C)C(=O)OCC)C=C1)(Cl)Cl | C18H18Cl3NO3S
